US04324796
Sodium 2-(5-phenylpentyl)oxirane-2-carboxylate
A mixture of 166 ml of 1 N sodium hydroxide solution and 90 ml of tetrahydrofuran is added dropwise to a solution of 43.6 g of 2-(5-phenylpentyl)oxirane 2-carboxylic acid ethyl ester in 90 ml of tetrahydrofuran. When the addition has ended, the mixture is stirred for about 45 minutes, until a clear solution has formed. 1.6 l of acetone are now added dropwise in the course of 3 hours, a crystalline precipitate, which is filtered off and washed with acetone, separating out. The product is recrystallized from water to give 42.9 g of the title compound as the dihydrate of m.p. 82° to 86° C.

reactant | sodium hydroxide | 1 N, 166 ml | [OH-].[Na+]
reactant | 2-(5-phenylpentyl)oxirane 2-carboxylic acid ethyl ester | 43.6 g | C(C)OC(=O)C1(OC1)CCCCCC1=CC=CC=C1 | C16H22O3
reactant | acetone | 1.6 l | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | Sodium 2-(5-phenylpentyl)oxirane-2-carboxylate | 42.9 g | C1(=CC=CC=C1)CCCCCC1(OC1)C(=O)[O-].[Na+] | InChI=1S/C14H18O3.Na/c15-13(16)14(11-17-14)10-6-2-5-9-12-7-3-1-4-8-12;/h1,3-4,7-8H,2,5-6,9-11H2,(H,15,16);/q;+1/p-1
